US05134127
The processes of Example 1 were repeated substituting 1.54 mL (2.15 grams, 1.76×10-2 mole) propane sultone for butane sultone to yield 1.97 grams mono-sulfobutyl ether of β-cyclodextrin as a white amorphous solid. Elemental analysis of the product showed a carbon to sulfur ratio of 12.1 which corresponds to Ca. 1.4 substitutions per molecule.

reactant | butane sultone | C1CCCOS1(=O)=O | C4H8O3S
reactant | β-cyclodextrin | C([C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](O[C@@H]([C@@H]([C@H]5O)O)O[C@@H]6[C@H](O[C@@H]([C@@H]([C@H]6O)O)O[C@@H]7[C@H](O[C@@H]([C@@H]([C@H]7O)O)O[C@@H]8[C@H](O[C@H](O2)[C@@H]([C@H]8O)O)CO)CO)CO)CO)CO)CO)O)O)O | C42H70O35
product | mono-sulfobutyl ether | 1.97 grams | S(=O)(=O)(O)CCCCOCCCCS(=O)(=O)O | C8H18O7S2
